US05498630
2-Chloro-N-ethyl-4-(trimethylsilyl)-3-thiophenecarboxamide
A solution of 1.3M s-BuLi in cyclohexane (16.15 mL, 21 mmol) was added dropwise to an ether/liquid N2 cooled (-100° C.) solution of N-ethyl-2-chloro-3-thiophenecarboxamide (1.90 g, 10 mmol) and TMEDA (3.17 mL, 21 mmol) in THF (100 mL). After stirring for 30 min at -100° C., TMSCl (2.28 g, 21 mmol) was added in a single portion. The resulting reaction mixture was warmed to -25° C. over 1 h, quenched with dilute aq citric acid, and extracted with EtOAc (3×). The combined organic extracts were dried (MgSO4), concentrated, and purified by HPLC with 3:17 EtOAc/hexanes to afford 0.3 g of the title compound as a white solid, an 11% yield. m.p. 46°-48° C.

reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 21 mmol, 16.15 mL | C1CCCCC1 | C6H12
reactant | N-ethyl-2-chloro-3-thiophenecarboxamide | 10 mmol, 1.90 g | C(C)NC(=O)C1=C(SC=C1)Cl | C7H8ClNOS
reactant | TMEDA | 21 mmol, 3.17 mL | CN(C)CCN(C)C | C6H16N2
reactant | TMSCl | 21 mmol, 2.28 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-Chloro-N-ethyl-4-(trimethylsilyl)-3-thiophenecarboxamide | 0.3 g, 11% yield | ClC=1SC=C(C1C(=O)NCC)[Si](C)(C)C | C10H16ClNOSSi
